US04379154
A 10 N aqueous solution of sodium hydroxide (100 cc) is added dropwise, in the course of 20 minutes and whilst keeping the temperature below 15° C., to a solution of 2-(pyrid-2-ylmethyl)-isothiourea dihydrochloride (120 g) in distilled water (250 cc), cooled to 13° C. After heating for 20 minutes at 73° C. and then cooling to 13° C., a 10 N aqueous solution of sodium hydroxide (60 cc) and then 1-bromo-4-chlorobutane (85 g) are added, whilst stirring, and stirring is continued for 15 hours at a temperature of about 20° C. The reaction mixture is then extracted three times with methylene chloride (430 cc in total); the organic extracts are combined, washed with distilled water (300 cc); dried over anhydrous sodium sulphate and filtered. The solution is poured onto neutral silica gel (100 g) contained in a column of diameter 3 cm; the column is eluted with methylene chloride (3700 cc). The first fraction (700 cc) is discarded. The second (2000 cc) is concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 35° C. Pyrid-2-ylmethyl 4-chlorobutyl sulphide (82 g) is thus obtained.

reactant | sodium hydroxide | 100 cc | [OH-].[Na+]
reactant | 2-(pyrid-2-ylmethyl)-isothiourea dihydrochloride | 120 g | Cl.Cl.N1=C(C=CC=C1)CSC(N)=N
reactant | sodium hydroxide | 60 cc | [OH-].[Na+]
reactant | 1-bromo-4-chlorobutane | 85 g | BrCCCCCl | C4H8BrCl
solvent | water | 250 cc | O | H2O
product | Pyrid-2-ylmethyl 4-chlorobutyl sulphide | 82 g | ClCCCCSCC1=NC=CC=C1 | C10H14ClNS
